US05476649
65.6 gm of pyridinium chlorochromate was dissolved into 400 ml of methylene chloride. To the solution was added 55 gm of methyl 16-hydroxyhexadecanoate which had been dissolved in 40 ml of methylene chloride in advance. After stirring for 2 hours at room temperature, 400 ml of anhydrous diethyl ether was added. The supernatant was removed and the insolbles were washed three times with 100 ml of anhydrous diethyl ether. The supernatant and the washing were combined together and passed through 40 gm of a silica gel column, and the eluent was concentrated under reduced pressure. The crude crystals thus obtained were purified by flash column chromatography (chloroform:hexane=4:l) to obtain 43.6 gm of methyl 15-formylpentadecanoate.

reactant | pyridinium chlorochromate | 65.6 gm | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | methyl 16-hydroxyhexadecanoate | 55 gm | OCCCCCCCCCCCCCCCC(=O)OC | C17H34O3
reactant | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | methyl 15-formylpentadecanoate | 43.6 gm | C(=O)CCCCCCCCCCCCCCC(=O)OC | C17H32O3
